US07683091B2
N-[4-({5-[(1,1′-Biphenyl-4-ylsulfonyl)amino]-1H-indol-1-yl}methyl)benzoyl]-L-phenylalanine
The title compound was prepared from ethyl N-{4-[(5-amino-1H-indol-1-yl)methyl]benzoyl}phenylalaninate and biphenyl 4-sulfonyl chloride following the procedure of Example 10: MS (ESI) m/z 630; MS (ESI) m/z 628.

reactant | ethyl N-{4-[(5-amino-1H-indol-1-yl)methyl]benzoyl}phenylalaninate | NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC)C=C1 | C27H27N3O3
reactant | biphenyl 4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
product | N-[4-({5-[(1,1′-Biphenyl-4-ylsulfonyl)amino]-1H-indol-1-yl}methyl)benzoyl]-L-phenylalanine | C1(=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1)C1=CC=CC=C1 | C37H31N3O5S
